US07820837B2
calcium {6-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]-2,3-dihydro-1-benzofuran-3-yl}acetate
To a solution of {6-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]-2,3-dihydro-1-benzofuran-3-yl}acetic acid (0.541 g, 0.938 mmol) in methanol (5 mL) was added 2 M aqueous sodium hydroxide solution (1 mL), and the mixture was concentrated under reduced pressure. Water (50 mL) and methanol (20 mL) were added to the obtained residue, and a solution of calcium chloride (0.111 g, 1.00 mmol) in water (5 mL) was added thereto. The mixture was concentrated under reduced pressure, and the precipitated solid was collected by filtration and washed with water to give the title compound (0.454 g, yield 81%) as a pale-yellow amorphous solid.

reactant | {6-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]-2,3-dihydro-1-benzofuran-3-yl}acetic acid | 0.938 mmol, 0.541 g | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC3=C(C(CO3)CC(=O)O)C=C2)C=C1 | C35H32N2O4S
reactant | sodium hydroxide | 2 M, 1 mL | [OH-].[Na+]
reactant | calcium chloride | 1.00 mmol, 0.111 g | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | calcium {6-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]-2,3-dihydro-1-benzofuran-3-yl}acetate | 0.454 g, yield 81% | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC3=C(C(CO3)CC(=O)[O-])C=C2)C=C1.[Ca+2].C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC3=C(C(CO3)CC(=O)[O-])C=C2)C=C1 | InChI=1S/2C35H32N2O4S.Ca/c2*38-34(39)19-29-23-41-33-20-30(15-16-31(29)33)40-22-27-13-11-26(12-14-27)21-37(18-17-25-7-3-1-4-8-25)35-36-32(24-42-35)28-9-5-2-6-10-28;/h2*1-16,20,24,29H,17-19,21-23H2,(H,38,39);/q;;+2/p-2
